US07977344B2
6-Amino-2-[(1-methylbutyl)amino]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of 2-chloro-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (40 mg) in ethylene glycol (1.5 mL) was added 2-aminopentane (0.16 mL) and the mixture was heated in a microwave at 170° C. for 2×30 mins. A further portion of 2-aminopentane (0.08 mL) was added and the reaction was heated in a microwave at 180° C. for 30 mins. The mixture was taken up in EtOAc (15 mL) and was washed with water (3×15 mL). The organics were separated, dried over MgSO4, filtered and concentrated in vacuo to give a brown residue. This was taken up in DCM and concentrated in a vacuum oven to give the title compound as a brown solid (18 mg).

reactant | 2-chloro-8-methoxy-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 40 mg | ClC1=NC(=C2N=C(N(C2=N1)CC1CCOCC1)OC)N | C12H16ClN5O2
reactant | 2-aminopentane | 0.16 mL | NC(C)CCC | C5H13N
reactant | 2-aminopentane | 0.08 mL | NC(C)CCC | C5H13N
solvent | ethylene glycol | 1.5 mL | C(CO)O | C2H6O2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-Amino-2-[(1-methylbutyl)amino]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 18 mg | NC1=C2NC(N(C2=NC(=N1)NC(CCC)C)CC1CCOCC1)=O | C16H26N6O2
